US04246270
A solution of 3.5 g (0.01 mol) of 3-hydroxy-1,3-dihydro-1-ethyl-7-chloro-5-phenyl-2H-1,4-benzodiazepin-2-one in 7 ml of anhydrous methylene chloride was added dropwise to a stirred solution of 3.53 ml (0.028 mol) of diethylaminosulfur trifluoride in 84 ml of anhydrous methylene chloride cooled to -70°. The reaction mixture was allowed to warm slowly to 5° and then poured into 150 ml of ice and water. The lower organic layer was separated, washed with water, dried over anhydrous magnesium sulfate, and evaporated to dryness under reduced pressure to give 2.84 g (90% yield) of crude product as light yellow crystals. Recrystallization from 200 ml of heptane gave 1.81 g (57% yield) of 3-fluoro-1,3-dihydro-1-ethyl-7-chloro-5-phenyl-2H-1,4-benzodiazepin-2-one: mp 156°-158°; 1H nmr (DMSO-d6) δ 7.2-7.8 ppm (m, 8H), δ 5.85 ppm (d, 1H, J=57 Hz), δ 3.5-4.38 (m, 2H, methylene protons on nitrogen), δ 1.02 (t, 3H).

reactant | 3-hydroxy-1,3-dihydro-1-ethyl-7-chloro-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.01 mol, 3.5 g | OC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)Cl)CC)=O | C17H15ClN2O2
reactant | diethylaminosulfur trifluoride | 0.028 mol, 3.53 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | water | O | H2O
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 84 ml | C(Cl)Cl | CH2Cl2
product | 3-fluoro-1,3-dihydro-1-ethyl-7-chloro-5-phenyl-2H-1,4-benzodiazepin-2-one | 1.81 g, 57% yield | FC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)Cl)CC)=O | C17H14ClFN2O
